.title kicad schematic

.include can_phy.sub
v6 /sel_hi_a gnd  dc 5
* u4 /clk /rst /rx /req /sel_lo /sel_hi /txb_d /busy_b /done_b /arb_b /rxv_b /errf_b /boff_b can_node_top
* u3 /clk /rst /rx /req /sel_lo /sel_lo /txa_d /busy_a /done_a /arb_a /rxv_a /errf_a /boff_a can_node_top
* u5 /txa_d /txb_d /txa_a /txb_a dac_bridge_2
v5 /sel_lo_a gnd  dc 0
x1 /txa_a /txb_a /rx_a /vcc5 gnd can_phy
v4 /vcc5 gnd  dc 5
v1 /clk_a gnd pulse(0 5 0 5e-9 5e-9 245e-9 500e-9)
v3 /req_a gnd pulse(0 5 10e-6 20e-9 20e-9 0.5e-6 100e-6)
* u2 /clk_a /rst_a /req_a /rx_a /clk /rst /req /rx adc_bridge_4
v2 /rst_a gnd pulse(0 5 2e-6 10e-9 10e-9 1 2)
* u1 /sel_lo_a /sel_hi_a /sel_lo /sel_hi adc_bridge_2
a1 [/clk ] [/rst ] [/rx ] [/req ] [/sel_lo /sel_hi ] [/txb_d ] [/busy_b ] [/done_b ] [/arb_b ] [/rxv_b ] [/errf_b ] [/boff_b ] u4
a2 [/clk ] [/rst ] [/rx ] [/req ] [/sel_lo /sel_lo ] [/txa_d ] [/busy_a ] [/done_a ] [/arb_a ] [/rxv_a ] [/errf_a ] [/boff_a ] u3
a3 [/txa_d /txb_d ] [/txa_a /txb_a ] u5
a4 [/clk_a /rst_a /req_a /rx_a ] [/clk /rst /req /rx ] u2
a5 [/sel_lo_a /sel_hi_a ] [/sel_lo /sel_hi ] u1
* Schematic Name:                             can_node_top, Ngspice Name: can_node_top
.model u3 can_node_top(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=1 ) 
* Schematic Name:                             dac_bridge_2, Ngspice Name: dac_bridge
.model u5 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_4, Ngspice Name: adc_bridge
.model u2 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_2, Ngspice Name: adc_bridge
.model u1 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             can_node_top, Ngspice Name: can_node_top
.model u4 can_node_top(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 instance_id=96 ) 
.tran 100e-9 600e-6 0

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
* explicit capture of the bus and bridge nodes for plotting
print v(txa_a) v(txb_a) v(rx_a) v(vcc5) > can_bus_nodes.txt
set filetype=ascii
write can_esim_ascii.raw
.endc
.end
