* CAN differential physical layer - eSim subcircuit
* ============================================================
* The complete analog CAN transceiver and bus, packaged as a
* single schematic symbol.
*
* Everything here was characterised and frozen in Days 13-21 of
* development; see docs/phy_spec.md. The values are measurements,
* not guesses:
*
*   R_on 45 ohm      derived from 1.5 V across 33.333 mA
*   120 ohm x 2      ISO 11898-2 termination, 60 ohm differential
*   dominant Vdiff   2.0 V nominal, 1.996 V measured
*   recessive Vdiff  0 V, both rails biased to 2.5 V
*   comparator       centred at 0.7 V, midway between the 0.5 V
*                    recessive and 0.9 V dominant thresholds
*
* WHY A SUBCIRCUIT
*   The driver stages need voltage-controlled switches and the
*   receiver needs a behavioural (B) source for the tanh
*   comparator. Neither has a KiCad schematic symbol in eSim, but
*   a subcircuit may contain any ngspice syntax - so the whole
*   transceiver becomes one placeable part.
*
* PORTS
*   txa  txb   digital transmit levels in, 0 V or 5 V
*              (dominant is 0 V, matching CAN polarity)
*   rxo        receiver output, 0 V dominant / 5 V recessive
*   vcc        5 V supply
*   gnd        ground
*
* WIRED-AND
*   Both driver stages sit across the SAME differential pair, so
*   either node alone pulls the bus dominant. This is physical,
*   not logical: it is what makes CAN arbitration non-destructive.
* ============================================================

.subckt can_phy txa txb rxo vcc gnd

* ---- invert: CAN dominant is logic 0, but the switch model
* ---- closes on a HIGH control voltage
Bda ctla gnd V = 5 - V(txa,gnd)
Bdb ctlb gnd V = 5 - V(txb,gnd)
Rca ctla gnd 1meg
Rcb ctlb gnd 1meg

.model swmod SW(Vt=2.5 Vh=0.2 Ron=45 Roff=1e9)

* ---- node A driver stage ----
Sha vcc  canh ctla gnd swmod
Sla canl gnd  ctla gnd swmod

* ---- node B driver stage, same pair ----
Shb vcc  canh ctlb gnd swmod
Slb canl gnd  ctlb gnd swmod

* ---- termination, both ends of the bus ----
Rta canh canl 120
Rtb canh canl 120

* ---- bias network holds the recessive level at 2.5 V ----
Vref vref gnd DC 2.5
Rb1 canh vref 10k
Rb2 canl vref 10k

* ---- bus capacitance ----
Cbh canh gnd 500p
Cbl canl gnd 500p

* ---- leakage: 100 Mohm, NOT 1 Mohm. At 1 Mohm these form a
* ---- divider with the 10 k bias and the recessive level sits at
* ---- 2.4752 V instead of 2.500 V (found on Day 13)
Rlh canh gnd 100meg
Rll canl gnd 100meg

* ---- differential receiver ----
* centred at 0.7 V, gain 10 gives a transition width of about
* +/- 0.2 V. Output is inverted: dominant bus -> 0 V out
Bcmp rxo gnd V = 2.5*(1 - tanh(10*(V(canh,gnd)-V(canl,gnd)-0.7)))
Rcmp rxo gnd 1meg

.ends can_phy
